US08058431B2
7) 2-(4-Dimethylamino-butyl)-5,6-dimethoxy-1-methyl-1H-quinazoline-4-one
3.80 g (20.9 mmol) Dimethylamino-pentanoic acid were added to 25 ml thionyl chloride and stirred for 90 min. at 55-60° C. The remaining thionyl chloride was distilled in vacuum and the residue was added to a solution of 2.00 g (11.1 mmol) 6-methylamino-2,3-dimethoxybenzamide dissolved in 30 ml trichloromethane at 0° C. The mixture was boiled for 2 h and stirred overnight at room temperature. After filtration the residue was dissolved in trichloromethane and saturated sodium bicarbonate solution. The organic solution was dried over magnesium sulfate and evaporated under vacuum.

reactant | Dimethylamino-pentanoic acid | 20.9 mmol, 3.80 g | CN(C)C(C(=O)O)CCC | C7H15NO2
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 6-methylamino-2,3-dimethoxybenzamide | 11.1 mmol, 2.00 g | CNC1=CC=C(C(=C1C(=O)N)OC)OC | C10H14N2O3
reactant | trichloromethane | 30 ml | ClC(Cl)Cl | CHCl3
product | 2-(4-Dimethylamino-butyl)-5,6-dimethoxy-1-methyl-1H-quinazoline-4-one | CN(CCCCC=1N(C2=CC=C(C(=C2C(N1)=O)OC)OC)C)C | C17H25N3O3
